US06977262B2
Ethyl 4-(2-chloro-3-methylphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
A suspension of 2-chloro-m-xylene (15 ml), N-bromosuccinimide (23.3 g) and benzoyl peroxide (200 mg) in carbon tetrachloride (150 ml) was heated under reflux for 6 hours. The insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent:hexane) to give 2-bromomethyl-1-chloro-6-methylbenzene (16.0 g) as a colorless oil. 2-Bromomethyl-1-chloro-6-methylbenzene (25.4 g) and hexamethylenetetramine (32.4 g) were dissolved in acetic acid-water (1:1, 10 ml) and the mixture was heated under reflux for 5 hours. To the reaction mixture was added concentrated hydrochloric acid (40 ml) and the mixture was heated under reflux for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 2-chloro-3-methylbenzaldehyde (19.4 g) as a yellow oil. Subsequently, the title compound was prepared from 2-chloro-3-methylbenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-chloro-3-methylbenzaldehyde | ClC1=C(C=O)C=CC=C1C | C8H7ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4-(2-chloro-3-methylphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1C)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C19H22ClN3O2
